US04820866
1,3-bis-(4-nitrophenoxy)-2,2,4-trimethylpentane
146 g (1 mol) 2,2,4-trimethyl-1,3-dihydroxypentane, 346.5 g (2.2 mols) 4-nitrochlorobenzene and 140 g powdered sodium hydroxide were reacted using the same procedure described in Example 1 in 600 ml DMSO.

reactant | 2,2,4-trimethyl-1,3-dihydroxypentane | 1 mol, 146 g | CC(CO)(C(C(C)C)O)C | C8H18O2
reactant | 4-nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,3-bis-(4-nitrophenoxy)-2,2,4-trimethylpentane | [N+](=O)([O-])C1=CC=C(OCC(C(C(C)C)OC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C20H24N2O6
